US06229011B1
Preparation of 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[(2-chloro-6-methylphenyl)carbonyl]-L-phenylalanine sodium salt
A suspension of 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[(2-chloro-6-methylphenyl)carbonyl]-L-phenylalanine (127.13 mmol, 64.3 g) in water (500 mL) was titrated with aqueous 1.0 N sodium hydroxide (120 mL) at room temperature until the pH of the solution became neutral. In order to effect complete dissolution, the mixture was warmed to 40-45° C. during the course of the titration. Some of the water was removed to a approximate volume of 300-350 mL under vacuum and the clear solution was lyopholized under high vacuum for 2 days to obtain 67 g (100%) as a white amorphous solid. Anal. (C24H18ClO3NaO4.0.70 H2O): Calcd. C, 54.62; H, 3.44; N, 5.31; Cl, 20.15; Na, 4.36; H2O, 2.33. Fd: C, 54.37; H, 3.49; N, 5.18; Cl, 20.11; Na, 4.25; H2O, 2.54.

reactant | 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[(2-chloro-6-methylphenyl)carbonyl]-L-phenylalanine | 127.13 mmol, 64.3 g | ClC1=C(C(=CC=C1)Cl)C(=O)NC1=CC=C(C[C@H](NC(=O)C2=C(C=CC=C2C)Cl)C(=O)O)C=C1 | C24H19Cl3N2O4
reactant | sodium hydroxide | 1.0 N, 120 mL | [OH-].[Na+]
solvent | water | 500 mL | O | H2O
product | 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[(2-chloro-6-methylphenyl)carbonyl]-L-phenylalanine sodium salt | [Na+].ClC1=C(C(=CC=C1)Cl)C(=O)NC1=CC=C(C[C@H](NC(=O)C2=C(C=CC=C2C)Cl)C(=O)[O-])C=C1 | InChI=1S/C24H19Cl3N2O4.Na/c1-13-4-2-5-16(25)20(13)22(30)29-19(24(32)33)12-14-8-10-15(11-9-14)28-23(31)21-17(26)6-3-7-18(21)27;/h2-11,19H,12H2,1H3,(H,28,31)(H,29,30)(H,32,33);/q;+1/p-1/t19-;/m0./s1
